US07691850B2
c) (±)-6-({[(Cis-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-hydroxy-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a stirred solution of (±)-cis-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol (0.23 g, 0.72 mmole) in dry CH2Cl2 (25 mL) and dry EtOH (10 mL) at RT was added 3-oxo-3,4-dihydro-2H-pyrido[1,4]thiazine-6-carboxaldehyde (0.14 g, 0.72 mmole). After 24 h, at RT was added NaBH(OAc)3 (0.23 g, 1.08 mmole). After 2 h, the reaction solution was concentrated under vacuum and purified on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) to afford the title compound (0.24 g, 66%) as light yellow solid: 1H NMR (400 MHz, CD3OD) δ 8.65 (s, 1H), 8.19 (d, J=9.0 Hz, 1H), 7.77 (d, J=7.8 Hz, 1H), 7.17 (d, J=9.0 Hz, 1H), 7.11 (d, J=8.0 Hz, 1H), 4.21 (s, 2H), 4.12 (s, 3H), 3.52 (m, 4H), 3.33 (s, 4H), 3.21 (m, 2H), 3.09 (m, 2H), 2.98 (m, 2H). LC-MS (ES) m/e 499 (M+H)+.

reactant | (±)-cis-4-(aminomethyl)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol | 0.72 mmole, 0.23 g | NC[C@@H]1[C@@H](CN(C1)CCC1=C(C=NC2=CC=C(N=C12)OC)F)O | C16H21FN4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[1,4]thiazine-6-carboxaldehyde | 0.72 mmole, 0.14 g | O=C1CSC2=C(N1)N=C(C=C2)C=O | C8H6N2O2S
reactant | NaBH(OAc)3 | 1.08 mmole, 0.23 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 mL | CCO | C2H6O
product | (±)-6-({[(Cis-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-4-hydroxy-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 0.24 g, 66% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H]([C@H](C1)O)CNCC=1C=CC=2SCC(NC2N1)=O)OC | C24H27FN6O3S
